US05362708
3-(4'-Fluorophenyl)-4,6-dichloropyridazine (145.84 g, 0.600 mol) was dissolved in dioxane (800 ml) at 60° C., water (300 ml) was added, and the solution was refluxed. Sodium hydroxide solution (48 g of solid NaOH, dissolved in 300 ml of water) was then added dropwise in the course of half an hour, and the mixture was kept under reflux for a further 5 hours. The mixture was then evaporated to dryness in vacuo, the residue was dissolved in hot water (5 l), insoluble particles were filtered off, and the solution was brought to pH 1 using concentrated hydrochloric acid. The solid obtained was isolated, washed with water and dissolved in dilute ammonia (8 l of water, pH 9-10) for further purification. Small amounts of 3-(4'-fluorophenyl)-4-chloro-6-pyridazinone were then selectively precipitated by carefully adding hydrochloric acid and then removed (by filtration), and the main bulk was then precipitated out (up to pH 1). The solid product obtained was isolated, washed with water and dried to constant weight. 91.0 g (0.4051 mol) of 3-(4'-fluorophenyl)-4-hydroxy-6-chloropyridazine of m.p.=254°-260° C. (point of decomposition) were obtained, which corresponds to a yield of 67.5% of theory.

reactant | 3-(4'-Fluorophenyl)-4,6-dichloropyridazine | 0.600 mol, 145.84 g | FC1=CC=C(C=C1)C=1N=NC(=CC1Cl)Cl | C10H5Cl2FN2
reactant | water | 300 ml | O | H2O
reactant | Sodium hydroxide | 300 ml, 48 g | [OH-].[Na+]
solvent | dioxane | 800 ml | O1CCOCC1 | C4H8O2
product | 3-(4'-fluorophenyl)-4-hydroxy-6-chloropyridazine | 0.4051 mol, 91.0 g, yield of 67.5% | FC1=CC=C(C=C1)C=1N=NC(=CC1O)Cl | C10H6ClFN2O
